US08536209B2
2-(2-tert-Butoxycarbonyl-ethyl)-5-phenyl-oxazole-4-carboxylic acid
Prepared starting from DL-3-phenylserine hydrate following sequentially general procedures W, X with succinic acid mono-tert-butyl ester, Y and Z. LC-MS-conditions 02: tR=0.95 min; [M+H]+=318.32.

reactant | DL-3-phenylserine hydrate | C1=CC=C(C=C1)C(C(C(=O)O)N)O | C9H11NO3
reactant | succinic acid mono-tert-butyl ester | C(C)(C)(C)OC(CCC(=O)O)=O | C8H14O4
product | 2-(2-tert-Butoxycarbonyl-ethyl)-5-phenyl-oxazole-4-carboxylic acid | C(C)(C)(C)OC(=O)CCC=1OC(=C(N1)C(=O)O)C1=CC=CC=C1 | C17H19NO5
